* Arm A oscillator 10: lumped D_NET caps
* auto-generated by gen_rc_decks.py
.lib "/home/claude/w/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice" ss
.include "/home/claude/w/pdk/sky130A/libs.ref/sky130_fd_sc_hd/spice/sky130_fd_sc_hd.spice"
.temp 100
.param SUPPLY=1.6
Vdd VPWR 0 {SUPPLY}
Ven EN 0 PULSE(0 1.6 2n 50p 50p 1 2)

* --- Arm A oscillator 10: nand + 30 inverters + tap buffer ---
Xnand EN n30 0 0 VPWR VPWR n0 sky130_fd_sc_hd__nand2_1
Xi1 n0 0 0 VPWR VPWR n1 sky130_fd_sc_hd__inv_1
Xi2 n1 0 0 VPWR VPWR n2 sky130_fd_sc_hd__inv_1
Xi3 n2 0 0 VPWR VPWR n3 sky130_fd_sc_hd__inv_1
Xi4 n3 0 0 VPWR VPWR n4 sky130_fd_sc_hd__inv_1
Xi5 n4 0 0 VPWR VPWR n5 sky130_fd_sc_hd__inv_1
Xi6 n5 0 0 VPWR VPWR n6 sky130_fd_sc_hd__inv_1
Xi7 n6 0 0 VPWR VPWR n7 sky130_fd_sc_hd__inv_1
Xi8 n7 0 0 VPWR VPWR n8 sky130_fd_sc_hd__inv_1
Xi9 n8 0 0 VPWR VPWR n9 sky130_fd_sc_hd__inv_1
Xi10 n9 0 0 VPWR VPWR n10 sky130_fd_sc_hd__inv_1
Xi11 n10 0 0 VPWR VPWR n11 sky130_fd_sc_hd__inv_1
Xi12 n11 0 0 VPWR VPWR n12 sky130_fd_sc_hd__inv_1
Xi13 n12 0 0 VPWR VPWR n13 sky130_fd_sc_hd__inv_1
Xi14 n13 0 0 VPWR VPWR n14 sky130_fd_sc_hd__inv_1
Xi15 n14 0 0 VPWR VPWR n15 sky130_fd_sc_hd__inv_1
Xi16 n15 0 0 VPWR VPWR n16 sky130_fd_sc_hd__inv_1
Xi17 n16 0 0 VPWR VPWR n17 sky130_fd_sc_hd__inv_1
Xi18 n17 0 0 VPWR VPWR n18 sky130_fd_sc_hd__inv_1
Xi19 n18 0 0 VPWR VPWR n19 sky130_fd_sc_hd__inv_1
Xi20 n19 0 0 VPWR VPWR n20 sky130_fd_sc_hd__inv_1
Xi21 n20 0 0 VPWR VPWR n21 sky130_fd_sc_hd__inv_1
Xi22 n21 0 0 VPWR VPWR n22 sky130_fd_sc_hd__inv_1
Xi23 n22 0 0 VPWR VPWR n23 sky130_fd_sc_hd__inv_1
Xi24 n23 0 0 VPWR VPWR n24 sky130_fd_sc_hd__inv_1
Xi25 n24 0 0 VPWR VPWR n25 sky130_fd_sc_hd__inv_1
Xi26 n25 0 0 VPWR VPWR n26 sky130_fd_sc_hd__inv_1
Xi27 n26 0 0 VPWR VPWR n27 sky130_fd_sc_hd__inv_1
Xi28 n27 0 0 VPWR VPWR n28 sky130_fd_sc_hd__inv_1
Xi29 n28 0 0 VPWR VPWR n29 sky130_fd_sc_hd__inv_1
Xi30 n29 0 0 VPWR VPWR n30 sky130_fd_sc_hd__inv_1
Xbuf n15 0 0 VPWR VPWR out sky130_fd_sc_hd__buf_1

Cn0_tot n0 0 2.667910e-16
Cn1_tot n1 0 4.481230e-16
Cn10_tot n10 0 3.924790e-16
Cn11_tot n11 0 5.619900e-16
Cn12_tot n12 0 6.226810e-16
Cn13_tot n13 0 1.135650e-16
Cn14_tot n14 0 1.135580e-16
Cn15_tot n15 0 9.101370e-16
Cn16_tot n16 0 5.487890e-16
Cn17_tot n17 0 5.584240e-16
Cn18_tot n18 0 5.920440e-16
Cn19_tot n19 0 1.236550e-16
Cn2_tot n2 0 1.628300e-16
Cn20_tot n20 0 1.297670e-16
Cn21_tot n21 0 8.009460e-16
Cn22_tot n22 0 6.476390e-16
Cn23_tot n23 0 6.739630e-16
Cn24_tot n24 0 1.872780e-16
Cn25_tot n25 0 6.773070e-16
Cn26_tot n26 0 1.777440e-16
Cn27_tot n27 0 8.813940e-16
Cn28_tot n28 0 4.490890e-16
Cn29_tot n29 0 4.773620e-16
Cn3_tot n3 0 6.926210e-16
Cn30_tot n30 0 7.942340e-16
Cn4_tot n4 0 1.656970e-16
Cn5_tot n5 0 3.624350e-16
Cn6_tot n6 0 3.195760e-16
Cn7_tot n7 0 3.251590e-16
Cn8_tot n8 0 2.865270e-16
Cn9_tot n9 0 7.601090e-16
Cout_tot out 0 5.474180e-15

.save v(out)
.tran 1p 140n
.control
run
meas tran tp TRIG v(out) VAL=0.8 RISE=5 TARG v(out) VAL=0.8 RISE=25
let f = 20 / tp
print f
.endc
.end
